US08003649B2
Lithium hydroxide monohydrate (0.373 g, 8.90 mmol) was added to ethyl 4-[4-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperazin-1-yl]benzoate (3.40 g, 8.09 mmol) in a mixture of MeOH (60 mL) and water (30 mL). The resulting suspension was stirred at 50° C. for 16 hours. Further lithium hydroxide monohydrate (0.373 g, 8.90 mmol) was added, the temperature was increased to 65° C. and the suspension was stirred for a further 6 hours. The reaction mixture was cooled to room temperature and the MeOH evaporated. The residues were dissolved in water (200 mL) and filtered. The filtrate was acidified with 1M citric acid until precipitation ceased, and the precipitate was collected by filtration, washed with water and dried under vacuum to afford 4-[4-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperazin-1-yl]benzoic acid (3.17 g, 100%) as a solid.

reactant | Lithium hydroxide monohydrate | 8.90 mmol, 0.373 g | O.[OH-].[Li+]
reactant | ethyl 4-[4-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperazin-1-yl]benzoate | 8.09 mmol, 3.40 g | FC(C1=NN=C2N1N=C(C=C2)N2CCN(CC2)C2=CC=C(C(=O)OCC)C=C2)(F)F | C19H19F3N6O2
reactant | lithium hydroxide monohydrate | 8.90 mmol, 0.373 g | O.[OH-].[Li+]
solvent | MeOH | 60 mL | CO | CH4O
solvent | water | 30 mL | O | H2O
product | 4-[4-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperazin-1-yl]benzoic acid | 3.17 g, 100% | FC(C1=NN=C2N1N=C(C=C2)N2CCN(CC2)C2=CC=C(C(=O)O)C=C2)(F)F | C17H15F3N6O2
